US04456464
Dimethyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonate (1 g) in 20 ml of 6N hydrochloric acid is heated under reflux overnight. The solution is then poured into water and the mixture is extracted with methylene chloride. The combined solvent extracts are dried over magnesium sulfate and the solvent is then evaporated off to give 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonic acid.

reactant | Dimethyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonate | 1 g | [N+](=O)([O-])C1=C(OCP(OC)(OC)=O)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C16H14ClF3NO7P
reactant | water | O | H2O
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphonic acid | [N+](=O)([O-])C1=C(OCP(O)(O)=O)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C14H10ClF3NO7P
